US09303033B2
To 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (4.0 g, 16.87 mmol) in dimethylformamide was added sodium azide (1.56 g, 23.9 mmol) and the reaction mixture was heated at 80° C. for 8 hrs. Cooled the reaction mixture, added water and white precipitate filtered and dried to yield 5-azido-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (2.95 g, 75% yield). LCMS (M+1=244)

reactant | 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 16.87 mmol, 4.0 g | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H9ClN4O
reactant | sodium azide | 23.9 mmol, 1.56 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-azido-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 2.95 g, 75% yield | N(=[N+]=[N-])C1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H9N7O
